US05216020
Step D: Preparation of 2-methyl-2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide
A suspension of sodium hydride (12.3 g, 60% dispersion in oil) in DMF (200 mL, distilled from calcium hydride) was cooled with stirring to 0° C. under a nitrogen atmosphere. Methyl iodide (18.5 mL, 0.29 mol) was added followed by the dropwise addition of 2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide (21.33 g. 0.0978 mol) in DMF (200 mL) over a period 1.25 hours. The reaction was stirred at 0° C. for an additional 2.25 hours, then quenched with water (100 mL) and 40% sodium hydroxide (2 mL). The basic solution was stirred for an additional 1 hour at 0° C., until hydrolysis of the ester was complete by tlc. 10% HCl was added to adjust the pH to 6, and the DMF removed in vacuo. The residue was partitioned between ethyl acetate and water. The pH of the aqueous phase was adjusted to 0 with 10% HCl, and the cloudy solution extracted with ethyl acetate (3×500 mL). The volume of ethyl acetate was reduced to 500 mL and extracted with 10% sodium hydroxide (3×300 mL). The aqueous phase was made acidic with concentrated HCl and extracted with two 400 mL portions of ethyl acetate. The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, and filtered. The solvent was removed in vacuo to give an oil which solidified. The solid was triturated with cold methylene chloride (50 mL), filtered and dried in vacuo (0.5 mm, 40° C.) to give the title compound as a light tan powder.

reactant | sodium hydride | 12.3 g | [H-].[Na+]
reactant | Methyl iodide | 0.29 mol, 18.5 mL | CI | CH3I
reactant | 2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | 0.0978 mol, 21.33 g | S1(C(CC2=C1SC=C2)C(=O)O)(=O)=O | C7H6O4S2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | CC1(CC2=C(SC=C2)S1(=O)=O)C(=O)O | C8H8O4S2
